US04954518
In 25 ml of methanol were suspended 2.0 g of methyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone and 1.03 g of 3,4-dimethoxybenzaldehyde. Thereto was added 5 ml of 50% aqueous sodium hydroxide. The mixture was stirred for 3 hours at room temperature. The reaction mixture was introduced into a mixture of 20 ml of ethyl acetate and 20 ml of water. The resulting mixture was adjusted to pH 2.0 with 4N hydrochloric acid. The resulting crystal was collected by filtration, washed with water and ethyl acetate in this order, and recrystallized from acetic acid to obtain 2.2 g (yield: 75.6%) of 2-(3,4-dimethoxyphenyl)vinyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone.

reactant | methyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone | 2.0 g | OC1=C(C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1)C(=O)C | C15H15NO5S
reactant | 3,4-dimethoxybenzaldehyde | 1.03 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-dimethoxyphenyl)vinyl 2-hydroxy-4-methylsulfonylamino-5-phenoxyphenyl ketone | 2.2 g, yield: 75.6% | OC1=C(C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1)C(=O)C=CC1=CC(=C(C=C1)OC)OC | C24H23NO7S
